US07449481B2
A mixture of polyphosphoric acid (11.2 g) in chlorobenzene (290 mL) was heated to reflux and added, under nitrogen, dropwise in about one hour 1-chloro-4-(2,2-dimethoxy-ethylsulfanyl)-benzene (compound PRE9; 9.12 g, 39.2 mmol). The reaction mixture was then heated for one night until reaction is complete, cooled, quenched with water (150 mL) and extracted into methylene chloride (200 mL). Combined organic layer was dried over Na2SO4 and concentrated to give a crude residue that was purified by flash chromatography (silica, eluting solvent: petroleum ether) to give 2.1 g of 5-chloro-benzo[b]thiophene (limpid oil) (Yield=32%).

reactant | 1-chloro-4-(2,2-dimethoxy-ethylsulfanyl)-benzene | 39.2 mmol, 9.12 g | ClC1=CC=C(C=C1)SCC(OC)OC | C10H13ClO2S
solvent | chlorobenzene | 290 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-chloro-benzo[b]thiophene | 2.1 g, Yield=32% | ClC1=CC2=C(SC=C2)C=C1 | C8H5ClS
